US06486316B1
Part A: Preparation of 2-chloro-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine Using Concentrated HCl
To a stirring mixture of 1 eq of cyanuric chloride and 3 eq of aluminum chloride in o-dichlorobenzene at ice bath temperature was added concentrated HCl (13 wt % based on cyanuric chloride). After 10 minutes, 1.95 eq of tert-butylbenzene was added and the reaction was stirred at ice bath temperature for 10 minutes. The cooling bath was removed, the reaction mixture was allowed to warm to room temperature, and stirred. After 2 h, HPLC analysis indicated 62% cyanuric chloride conversion to 2-chloro-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine as the major product (>78%). The reaction mixture was stirred at room temperature for an additional 24 h. HPLC analysis showed 83% cyanuric chloride conversion to 2-chloro-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine as the major product (>72%), with the isomer.

reactant | cyanuric chloride | 1 eq | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | aluminum chloride | 3 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | tert-butylbenzene | 1.95 eq | C(C)(C)(C)C1=CC=CC=C1 | C10H14
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-chloro-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | C23H26ClN3
